US04173641
1,2-Di-O-(n-hexadecyl)-3-O-[3-(1,2-epoxyethyl)-benzyl]-glycerol
Sodium hydride (3.23 g of a 57% dispersion in mineral oil, 0.067 moles) was suspended in dimethylsulfoxide (117 ml) and heated at 70°-75° C. under a nitrogen atmosphere for about 45 minutes, until hydrogen evolution stopped. Tetrahydrofuran (88 ml) was added, and the mixture was cooled to 0°-5° C. Trimethylsulfonium iodide (13.67 g, 0.067 mol) was added in portions, followed by the rapid addition of 1,2-di-O-(n-hexadecyl)-3-O-(3-formylbenzyl)-glycerol (7.0 g, 0.0106 mol) in tetrahydrofuran (58 ml). The mixture was then stirred at room temperature for 16 hours, poured into water (200 ml), and extracted with ether (3×180 ml). The combined ether extracts were washed with water (2×100 ml) and saturated sodium chloride solution (100 ml), dried over magnesium sulfate, filtered and concentrated under reduced pressure to a pale yellow oil (7.0 g, 98% yield), which was pure enough by thin layer chromatography for further reaction, as described in Example 9.

reactant | Sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | Trimethylsulfonium iodide | 0.067 mol, 13.67 g | [I-].C[S+](C)C
reactant | 1,2-di-O-(n-hexadecyl)-3-O-(3-formylbenzyl)-glycerol | 0.0106 mol, 7.0 g | C(CCCCCCCCCCCCCCC)OCC(OCCCCCCCCCCCCCCCC)COCC1=CC(=CC=C1)C=O | C43H78O4
solvent | dimethylsulfoxide | 117 ml | CS(=O)C | C2H6OS
solvent | tetrahydrofuran | 58 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 88 ml | O1CCCC1 | C4H8O
solvent | water | 200 ml | O | H2O
product | 1,2-Di-O-(n-hexadecyl)-3-O-[3-(1,2-epoxyethyl)-benzyl]-glycerol | 7.0 g, 98% yield | C(CCCCCCCCCCCCCCC)OCC(OCCCCCCCCCCCCCCCC)COCC1=CC(=CC=C1)C1CO1 | C44H80O4
